US04794183
dl-2-Hexadecyloxymethyltetrahydropyran-3-one
5 ml of Jones reagent (1.34 g as chromic anhydride) were added, whilst ice-cooling, to a solution of 4.30 g of dl-trans-2-hexadecyloxymethyl-3-hydroxytetrahydropyran (prepared as described in Preparation 2) in 20 ml of acetone. The mixture was then stirred at room temperature for 2 hours, after which 2 ml of isopropanol were added. The reaction mixture was then stirred for a further 10 minutes, after which it was diluted with 50 ml of ethyl acetate and then washed, in turn, with water, a saturated aqueous solution of sodium bicarbonate and a saturated aqueous solution of sodium chloride. It was then dried, and the solvent was removed by distillation. The resulting oily residue, 4.5 g, was subjected to column chromatography through 100 g of silica gel. The fraction eluted with mixtures of ethyl acetate and hexane ranging from 1:10 to 3:20 by volume gave 3.73 g of the title compound, melting at 42°-43.5° C. (hexane).

reactant | Jones reagent | 5 ml, 1.34 g | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | trans-2-hexadecyloxymethyl-3-hydroxytetrahydropyran | C(CCCCCCCCCCCCCCC)OC[C@@H]1OCCC[C@H]1O | C22H44O3
reactant | isopropanol | 2 ml | C(C)(C)O | C3H8O
solvent | acetone | 20 ml | CC(=O)C | C3H6O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 2-Hexadecyloxymethyltetrahydropyran-3-one | 3.73 g | C(CCCCCCCCCCCCCCC)OCC1OCCCC1=O | C22H42O3
